US04431576
A mixture of 5 g of methyl (1R,trans) 2,2-dimethyl-3-formyl-cyclopropane-1-carboxylate, 11.3 g of 2-oxopropyl-triphenylphosphonium bromide and 50 ml of dichloroethane was refluxed for 2 hours and the temperature was allowed to return to room temperature. The mixture was evaporated to dryness under reduced pressure and the 19 g of oil residue were empasted with ether and filtered. The filtrate was evaporated to dryness and the 5 g of oil residue were chromatographed over silica gel. Elution with a 7-3 cyclohexane-ethyl acetate mixture yielded 4.46 g of methyl (1R,trans) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+108°±2.5° (c=0.6% in benzene).

reactant | methyl (1R,trans) 2,2-dimethyl-3-formyl-cyclopropane-1-carboxylate | 5 g | CC1([C@@H]([C@H]1C=O)C(=O)OC)C | C8H12O3
reactant | 2-oxopropyl-triphenylphosphonium bromide | 11.3 g | [Br-].O=C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | methyl (1R,trans) 2,2-dimethyl-3-[(E)-3-oxo-1-butenyl]-cyclopropane-1-carboxylate | 4.46 g | CC1([C@@H]([C@H]1\C=C\C(C)=O)C(=O)OC)C | C11H16O3
